US06476263B1
Synthesis of Methyl N-[N-(3-nitrophenylacetyl)-L-alaninyl]-(S)-2-aminobutanoate
Following General Procedure C and using N-(3-nitrophenylacetyl)-L-alanine (from Example D11 above) and methyl (S)-2-aminobutanoate hydrochloride prepared from (S)-(+)-2-aminobutyric acid (Aldrich) using General Procedure H), the title compound was prepared as a solid (mp=154-157° C.).

reactant | N-(3-nitrophenylacetyl)-L-alanine | [N+](=O)([O-])C=1C=C(C=CC1)CC(=O)N[C@@H](C)C(=O)O | C11H12N2O5
reactant | methyl (S)-2-aminobutanoate hydrochloride | Cl.N[C@H](C(=O)OC)CC
reactant | (S)-(+)-2-aminobutyric acid | N[C@H](C(=O)O)CC | C4H9NO2
product | Methyl N-[N-(3-nitrophenylacetyl)-L-alaninyl]-(S)-2-aminobutanoate | [N+](=O)([O-])C=1C=C(C=CC1)CC(=O)N[C@@H](C)C(=O)N[C@H](C(=O)OC)CC | C16H21N3O6
